US05688995
86.5 g (0.5 mol) of 4-bromophenol in 500 ml of Methylcellosolve are placed in a 1 l sulfonating flask fitted with stirrer, condenser, dropping funnel and internal thermometer. This mixture is heated to 60 C., and then 70.0 g of 30% NaOH (0.53 mol) are run in slowly. The mixture is stirred for 15 minutes and then 116.8 g (0.575 mol) of 3-bromomethylheptane are added dropwise over the course of 45 minutes. The reaction is continued at 100 C. overnight. The thin-layer chromatogram indicates virtually quantitative conversion. Solvent and excess bromide are removed in vacuo and the residue (an oil) is taken up in 600 ml of toluene. The mixture is subjected three times to extraction by shaking with water and the extracts are dried over sodium sulfate and evaporated to dryness, to give 119.3 g (84% of theory) of 4-(2-ethylhexyloxy)bromobenzene as a light yellow oil.

reactant | 4-bromophenol | 0.5 mol, 86.5 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | NaOH | 0.53 mol, 70.0 g | [OH-].[Na+]
reactant | 3-bromomethylheptane | 0.575 mol, 116.8 g | BrCC(CC)CCCC | C8H17Br
solvent | Methylcellosolve | 500 ml | COCCO | C3H8O2
product | 4-(2-ethylhexyloxy)bromobenzene | 119.3 g, 84% | C(C)C(COC1=CC=C(C=C1)Br)CCCC | C14H21BrO
